data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)c(OC)c1OC.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(OC)c1OC"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(OC)c1OC", "products": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(OC)c1OC.[H+]"}, {"reactants": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(OC)c1OC", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(OC)c2OC)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(OC)c2OC)C(=N)C=C1", "products": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)c(OC)c1OC"}, {"reactants": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)c(OC)c1OC", "products": "COc1cc2c(c(OC)c1OC)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(c(OC)c1OC)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1.[H+]", "products": "COc1cc2c(c(OC)c1OC)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(c(OC)c1OC)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1", "products": "COc1cc2c(c(OC)c1OC)[NH+]=CC2c1ccccc1.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc2c(c(OC)c1OC)[NH+]=CC2c1ccccc1", "products": "COc1cc2c(-c3ccccc3)c[nH]c2c(OC)c1OC.[H+]"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c(C)c([Si](C)(C)C)c([Si](C)(C)C)c(Cl)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(C)c([Si](C)(C)C)c([Si](C)(C)C)c(Cl)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(C)c([Si](C)(C)C)c([Si](C)(C)C)c(Cl)c1=C", "products": "Cc1c2c(c(Cl)c([Si](C)(C)C)c1[Si](C)(C)C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1c(Br)ccc(F)c1F.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1[c]([Pd][Br])ccc(F)c1F"}, {"reactants": "CN(C(=O)C1=CCCC1)c1[c]([Pd][Br])ccc(F)c1F", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2c1ccc(F)c2F"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2c1ccc(F)c2F", "products": "CN1C(=O)C2(C=CCC2)c2c1ccc(F)c2F.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(C)cc1OC)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(C)cc1OC)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(C)cc1OC)C(C)C", "products": "COc1cc(C)ccc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21"}, {"reactants": "COc1cc(C)ccc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21", "products": "COc1cc(C)ccc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH]"}, {"reactants": "COc1cc(C)ccc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH].[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1cc(C)ccc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]"}, {"reactants": "COc1cc(C)ccc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]", "products": "COc1cc(C)ccc1[Si]1(c2ccccc2)OC(C(C)C)CC1CC=O.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1ccc(OC)c(C(=O)C2C3CCC2C3)c1", "products": "COc1ccc(OC)c([C]([O])C2C3CCC2C3)c1"}, {"reactants": "COc1ccc(OC)c([C]([O])C2C3CCC2C3)c1", "products": "COc1ccc(OC)c(C([O])=CC2C[CH]CC2)c1"}, {"reactants": "COc1ccc(OC)c(C([O])=CC2C[CH]CC2)c1", "products": "COc1ccc(OC)c(C(O)=CC2C=CCC2)c1"}, {"reactants": "COc1ccc(OC)c(C(O)=CC2C=CCC2)c1", "products": "COc1ccc(OC)c(C(=O)CC2C=CCC2)c1"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c(OC)c([Si](C)(C)C)c([Si](C)(C)C)c(Cl)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(OC)c([Si](C)(C)C)c([Si](C)(C)C)c(Cl)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(OC)c([Si](C)(C)C)c([Si](C)(C)C)c(Cl)c1=C", "products": "COc1c2c(c(Cl)c([Si](C)(C)C)c1[Si](C)(C)C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cc(Cl)ccc1F)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(Cl)ccc1F)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(Cl)ccc1F)C(C)C", "products": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2cc(Cl)ccc2F)O1"}, {"reactants": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2cc(Cl)ccc2F)O1", "products": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2cc(Cl)ccc2F)O1"}, {"reactants": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2cc(Cl)ccc2F)O1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2cc(Cl)ccc2F)O1"}, {"reactants": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2cc(Cl)ccc2F)O1", "products": "CC(C)C1CC(CC=O)[Si](c2ccccc2)(c2cc(Cl)ccc2F)O1.[Rh]"}]}
